US05229379
A mixture of 2.76 g of (2R)-3-chloro-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester, 3.54 g of p-chlorobenzylamine, 3.25 g of N-ethyl-N,N-diisopropylamine and 20 ml of ethanol is heated under reflux for 48 hours. Removal of the solvent and chromatography yield (2S)-3-(p-chlorobenzylamino)-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester; 1H-NMR spectrum (in CDCl3): δ=7.4-7.17 (9H,m); 4.14-3.83 (3H,m); 3.71 (2H,ABq); 3.20 (2H,d); 2.6-2.5 (2H,m); 1.96-1.62 (2H,m); 1.25 (3H,t); 31P-NMR spectrum (in CDCl3): δ=53.9; 52.7.

reactant | (2R)-3-chloro-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester | 2.76 g | C(C)OP(=O)(CC1=CC=CC=C1)C[C@H](CCl)O | C12H18ClO3P
reactant | p-chlorobenzylamine | 3.54 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | N-ethyl-N,N-diisopropylamine | 3.25 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (2S)-3-(p-chlorobenzylamino)-2-hydroxypropyl(benzyl)phosphinic acid ethyl ester | C(C)OP(=O)(CC1=CC=CC=C1)C[C@H](CNCC1=CC=C(C=C1)Cl)O | C19H25ClNO3P
